US08709615B2
Synthesis of 5-chloro-2-phenylpyridine
2,5-Dichloropyridine (30 g, 203 mmol), phenylboronic acid (24.72 g, 203 mmol) and potassium carbonate (84 g, 608 mmol) were added to dimethoxyethane (500 mL) and water (100 mL). The reaction mixture was degassed with nitrogen for 20 min, and Pd(PPh3)4 (2.3 g, 2.0 mmol) was added and reaction mixture was allowed to reflux for 18 h. The reaction was cooled to room temperature, the aqueous layer removed and dimethoxyethane was concentrated to dryness by rotary evaporation under vacuum. The residue was dissolved in DCM and passed through a silica gel plug, eluting with DCM. The solvent was removed and the crude product was chromatographed on silica with 40/60 (v/v) DCM/hexane to 50/50 (v/v) DCM/hexane to yield 28 g (73%) of the product as a white solid (HPLC purity: 99.7%).

reactant | 2,5-Dichloropyridine | 203 mmol, 30 g | ClC1=NC=C(C=C1)Cl | C5H3Cl2N
reactant | phenylboronic acid | 203 mmol, 24.72 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | potassium carbonate | 608 mmol, 84 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethoxyethane | 500 mL | C(OC)COC | C4H10O2
catalyst | Pd(PPh3)4 | 2.0 mmol, 2.3 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 100 mL | O | H2O
product | 5-chloro-2-phenylpyridine | 28 g, 73% | ClC=1C=CC(=NC1)C1=CC=CC=C1 | C11H8ClN
